US04485107
A mixture of 4.5 parts of 3-(2-chloroethyl)-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one monohydrochloride, 4.6 parts of 4-[(4-fluorophenyl)phenylmethylene]piperidine hydrochloride, 2 parts of a sodium methoxide solution 30%, 8 parts of sodium carbonate, 0.2 parts of potassium iodide and 240 parts of 4-methyl-2-pentanone was stirred and refluxed for 22 hours. The reaction mixture was filtered hot and the filtrate was evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (92:8 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in acetonitrile and 2-propanol. The salt was filtered off and dried, yielding 4.8 parts (60%) of 3-[2-[4-[(4-fluorophenyl)phenylmethylene]-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one dihydrochloride; mp. 264.6° C. (compound 137).

reactant | 3-(2-chloroethyl)-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one monohydrochloride | Cl.ClCCC1=C(N=C2N(C1=O)CCCC2)C
reactant | 4-[(4-fluorophenyl)phenylmethylene]piperidine hydrochloride | Cl.FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=CC=C1
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 3-[2-[4-[(4-fluorophenyl)phenylmethylene]-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one dihydrochloride | 60% | Cl.Cl.FC1=CC=C(C=C1)C(=C1CCN(CC1)CCC1=C(N=C2N(C1=O)CCCC2)C)C2=CC=CC=C2 | InChI=1S/C29H32FN3O.2ClH/c1-21-26(29(34)33-17-6-5-9-27(33)31-21)16-20-32-18-14-24(15-19-32)28(22-7-3-2-4-8-22)23-10-12-25(30)13-11-23;;/h2-4,7-8,10-13H,5-6,9,14-20H2,1H3;2*1H
